US09062056B2
(R)-3-(3-Amino-6-cyano-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester
To a solution of (R)-3-(6-cyano-3-nitro-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester (0.70 g, 2.06 mmol) in EtOH (20 mL) was added Pd/C (140 mg). The reaction mixture was de-gassed using house vacuum and saturated with H2. The reaction mixture was stirred at room temperature for 2 hours. The mixture was filtered through a pad of celite and the filtrate was concentrated to afford 0.60 g (94%) of the title compound, which was used for the next reaction without further purification.

reactant | (R)-3-(6-cyano-3-nitro-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester | 2.06 mmol, 0.70 g | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=NC(=CC=C1[N+](=O)[O-])C#N)=O | C17H16N4O4
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 140 mg | [Pd] | Pd
product | (R)-3-(3-Amino-6-cyano-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester | 0.60 g, 94% | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=NC(=CC=C1N)C#N)=O | C17H18N4O2
